US05025025
A mixture of 0.528 g 8-(p-chlorophenylsulfonamido)-4[3-(3-pyridyl)propyl]octanenitrile and 1.04 mL tributyltin azide in 5 mL tetrahydrofuran is heated at 120° C. for 64 hours. The solvent is evaporated and subjected to flash chromatography over silica gel using methylene chloride/hexane/methanol/acetic acid (45:25:5:0.8) as eluent to give an oil which is purified again by preparative thin layer chromatography using methylene chloride, methanol, hexane, acetic acid (45:5:25:0.8) as eluent to yield an oil which is triturated with ether and hexane to give 5-{7-(p-chlorophenylsulfonamido)-3-[3-(3-pyridyl)-propyl]-heptyl}-1H-tetrazole hemihydrate, m.p. 56-81°.

reactant | 8-(p-chlorophenylsulfonamido)-4[3-(3-pyridyl)propyl]octanenitrile | 0.528 g | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCC(CCC#N)CCCC=1C=NC=CC1 | C22H28ClN3O2S
reactant | tributyltin azide | 1.04 mL | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 5-{7-(p-chlorophenylsulfonamido)-3-[3-(3-pyridyl)-propyl]-heptyl}-1H-tetrazole hemihydrate | O.ClC1=CC=C(C=C1)S(=O)(=O)NCCCCC(CCC1=NN=NN1)CCCC=1C=NC=CC1.ClC1=CC=C(C=C1)S(=O)(=O)NCCCCC(CCC1=NN=NN1)CCCC=1C=NC=CC1 | InChI=1S/2C22H29ClN6O2S.H2O/c2*23-20-10-12-21(13-11-20)32(30,31)25-16-2-1-5-18(9-14-22-26-28-29-27-22)6-3-7-19-8-4-15-24-17-19;/h2*4,8,10-13,15,17-18,25H,1-3,5-7,9,14,16H2,(H,26,27,28,29);1H2
